US07098337B2
d) 6-Bromo-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester
The solution of 18.4 g (0.05 mol) 6-bromo-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester in 165 ml dichloromethane was cooled to 0 deg C. and then 38.0 ml trifluoroacetic acid was added within 5 min. The cooling bath was removed and after 2 h at room temperature the reaction mixture was poured into 500 ml saturated aqueous sodium bicarbonate solution. The organic layer was extracted three times with 150 ml dichloromethane. The combined organic phases were washed with 200 ml brine, dried over magnesium sulfate and filtered. The solvent was evaporated and the residue was dried under high vacuum to afford 12.0 g (95.5%) of the desired product as a colorless solid.

reactant | 6-bromo-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.05 mol, 18.4 g | CCOC(=O)C1=CC=2C(=NC(=CC2)Br)N1C(=O)OC(C)(C)C | C15H17BrN2O4
reactant | trifluoroacetic acid | 38.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 165 ml | ClCCl | CH2Cl2
product | 6-Bromo-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 12.0 g, 95.5% | C(C)OC(=O)C1=CC=2C(=NC(=CC2)Br)N1 | C10H9BrN2O2
